US05077288
2-{2-[(Tetrahydro-2-pyranyl)oxy]ethyl}-1-oxophthalazine
A solution of 41.5 g of potassium hydroxide in 53 ml of water is added at room temperature to a solution of 61 g of 1-oxophthalazine in 430 ml of dimethyl sulfoxide. After 30 minutes, 130 g of tetrahydro-2-pyranyl 2-bromoethyl ether are added to the suspension obtained. The mixture is left stirring for 30 hours at room temperature and then concentrated, the residue is taken up in 400 ml of water and the product is extracted with dichloromethane. The organic phase is concentrated.

reactant | potassium hydroxide | 41.5 g | [OH-].[K+]
reactant | 1-oxophthalazine | 61 g | O=C1NN=CC2=CC=CC=C12 | C8H6N2O
reactant | tetrahydro-2-pyranyl 2-bromoethyl ether | 130 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | water | 53 ml | O | H2O
solvent | dimethyl sulfoxide | 430 ml | CS(=O)C | C2H6OS
product | 2-{2-[(Tetrahydro-2-pyranyl)oxy]ethyl}-1-oxophthalazine | O1C(CCCC1)OCCN1C(C2=CC=CC=C2C=N1)=O | C15H18N2O3
